US08138345B2
Preparation of N-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenyl]-4-methylaminobutyramide
To a stirred solution of {3-[3-(2-{benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)-phenylcarbamoyl]propyl}methylcarbamic acid tert-butyl ester (276 mg, 0.331 mmol) in DCM (3 mL) at room temperature was added trifluoroacetic acid (2 mL, 20 mmol) and the resulting mixture was stirred at room temperature overnight. LC-MS (Method 2-90) showed product was present (Rt 2.69 min; m/z 7.33.4 [M+H]−). The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DCM. This solution was washed with aqueous saturated sodium bicarbonate solution (2×), dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (249 mg, 100% yield) as a yellow-brown oil, which was used in the next reaction without further purification.

reactant | {3-[3-(2-{benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)-phenylcarbamoyl]propyl}methylcarbamic acid tert-butyl ester | 0.331 mmol, 276 mg | C(C)(C)(C)OC(N(C)CCCC(NC1=CC(=CC=C1)CCN(C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)=O | C49H64N4O6Si
reactant | trifluoroacetic acid | 20 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenyl]-4-methylaminobutyramide | 249 mg, 100% yield | C(C1=CC=CC=C1)N(CCC=1C=C(C=CC1)NC(CCCNC)=O)C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C44H56N4O4Si
